US04451476
The intermediate 4-(4-cyanophenoxy)butyl bromide was prepared from the potassium salt of 4-cyanophenol and 1,4-dibromobutane.

reactant | potassium | [K] | K
reactant | 4-cyanophenol | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 4-(4-cyanophenoxy)butyl bromide | C(#N)C1=CC=C(OCCCCBr)C=C1 | C11H12BrNO
